US09056964B2
Preparation of Bis(2-phenoxyethyl)terephthalate (“PEM”)
Gas chromatography analysis of the PEM product: 98.9% PEM, 0.0% DMT, 0.1% mono(2-phenoxyethyl)terephthalate, 1.0% 2-PE. Yellowness index: 1.01; acid number (by titration in acetone to a phenolphthalein endpoint): 0.02 mg KOH/g.

reactant | mono(2-phenoxyethyl)terephthalate | O(C1=CC=CC=C1)CCOC(C1=CC=C(C(=O)[O-])C=C1)=O
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | KOH | 0.02 mg | [OH-].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | Bis(2-phenoxyethyl)terephthalate | O(C1=CC=CC=C1)CCOC(C1=CC=C(C(=O)OCCOC2=CC=CC=C2)C=C1)=O | C24H22O6
